US04596799
To a stirred solution of 2.68 g of methyl 1-(2-nitrobenzyl)-5-chloropyrrole-2-carboxylate in 30 mL of anhydrous tetrahydrofuran is added 35 mL of titanium trichloride in a dropwise manner over a 15 minute period. The reaction is allowed to stir at room temperature for 18 hours and then is diluted with 150 mL of a 1:1 mixture of diethyl ether and water. The organic phase is separated, washed with brine and saturated sodium bicarbonate, dried over anhydrous sodium sulfate, and evaporated to dryness to yield methyl 1-(2-aminobenzyl)-5-chloropyrrole-2-carboxylate which is used in the next step without further purification.

reactant | methyl 1-(2-nitrobenzyl)-5-chloropyrrole-2-carboxylate | 2.68 g | [N+](=O)([O-])C1=C(CN2C(=CC=C2Cl)C(=O)OC)C=CC=C1 | C13H11ClN2O4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
catalyst | titanium trichloride | 35 mL | [Cl-].[Cl-].[Cl-].[Ti+3]
product | methyl 1-(2-aminobenzyl)-5-chloropyrrole-2-carboxylate | NC1=C(CN2C(=CC=C2Cl)C(=O)OC)C=CC=C1 | C13H13ClN2O2
